US08383139B2
N′-(4-{[3-(3-Chlorobenzyl)-1,2,4-thiadiazol-5-yl]oxy}-2,5-dimethylphenyl)-N-ethyl-N-methylimidoformamide
1.85 g (5.15 mmol) of 4-{[3-(3-chlorobenzyl)-1,2,4-thiadiazol-5-yl]oxy}-2,5-dimethylaniline are dissolved in 10 ml of toluene and treated with 1.37 g (10.31 mmol) of N-ethyl-N-methylformamide dimethylacetal. The reaction mixture is refluxed for 12 h, subsequently cooled, freed of solvent under vacuum and purified by column chromatography. 0.59 g of product is obtained (99.0% purity, 27.3% yield; log P (pH2.3)=2.31).

reactant | 4-{[3-(3-chlorobenzyl)-1,2,4-thiadiazol-5-yl]oxy}-2,5-dimethylaniline | 5.15 mmol, 1.85 g | ClC=1C=C(CC2=NSC(=N2)OC2=CC(=C(N)C=C2C)C)C=CC1 | C17H16ClN3OS
reactant | N-ethyl-N-methylformamide dimethylacetal | 10.31 mmol, 1.37 g | COC(N(C)CC)OC | C6H15NO2
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | N′-(4-{[3-(3-Chlorobenzyl)-1,2,4-thiadiazol-5-yl]oxy}-2,5-dimethylphenyl)-N-ethyl-N-methylimidoformamide | 0.59 g, 27.3% yield | ClC=1C=C(CC2=NSC(=N2)OC2=CC(=C(C=C2C)N=CN(C)CC)C)C=CC1 | C21H23ClN4OS
